US05196431
A solution of 1-[2-amino-4-(1,1-dimethylethyl)-5-oxazolyl]-2,2-dimethyl-1-propanone (15 g) in t-butanol (80 mL) and concentrated ammonium hydroxide (80 mL) is heated at 180° C. for 60 hours in a steel bomb. The reaction mixture is cooled and concentrated to half its volume on the rotovap. The product is extracted into ether (3×250 mL). The ether extract is dried (MgSO4) and evaporated. The residue is purified by flash chromatography (silica, 20% EtOAc/hexane) to give pure 2-amino-4,6-bis(1,1-dimethylethyl)-5-hydroxypyrimidine (4.5 g, 34%) which crystallizes from cold hexane; mp 92°-93° C.

reactant | 1-[2-amino-4-(1,1-dimethylethyl)-5-oxazolyl]-2,2-dimethyl-1-propanone | 15 g | NC=1OC(=C(N1)C(C)(C)C)C(C(C)(C)C)=O | C12H20N2O2
reactant | ammonium hydroxide | 80 mL | [OH-].[NH4+]
solvent | t-butanol | 80 mL | C(C)(C)(C)O | C4H10O
product | 2-amino-4,6-bis(1,1-dimethylethyl)-5-hydroxypyrimidine | 4.5 g, 34% | NC1=NC(=C(C(=N1)C(C)(C)C)O)C(C)(C)C | C12H21N3O
